US06114391
a) Preparation of methyl (S)-3-hydroxy-2-(2-indanylamino)propanoate
L-serine methyl ester hydrochloride (0.05 moles, 7.78 g) is dissolved in absolute ethanol (400 ml) and methanol (40 ml), added with 2-indanone (0.05 moles, 6.74 g) and sodium cyanoborohydride (0.55 moles, 3.64 g) under stirring in 30 minutes. The mixture is stirred at r.t. for 5 hours, then evaporated to dryness under vacuum and the residue is taken up into water (150 ml) and ethyl acetate (150 ml). The phases are separated and the aqueous phase is further extracted with ethyl acetate (200 ml). The combined organic phases are extracted with a 0.2 N HCl solution (2×200 ml). The aqueous solution is separated, adjusted to pH=8 with sodium bicarbonate and extracted with ethyl acetate (2×300 ml). The organic solution is separated, dried over sodium sulfate and evaporated under vacuum. The resulting product is dried under vacuum at r.t. Yield: 8.4 g (71.4%)

reactant | L-serine methyl ester hydrochloride | 0.05 moles, 7.78 g | Cl.COC([C@@H](N)CO)=O
reactant | 2-indanone | 0.05 moles, 6.74 g | C1C(CC2=CC=CC=C12)=O | C9H8O
reactant | sodium cyanoborohydride | 0.55 moles, 3.64 g | C(#N)[BH3-].[Na+]
solvent | ethanol | 400 ml | C(C)O | C2H6O
solvent | methanol | 40 ml | CO | CH4O
product | methyl (S)-3-hydroxy-2-(2-indanylamino)propanoate | OC[C@@H](C(=O)OC)NC1CC2=CC=CC=C2C1 | C13H17NO3
